US09120749B2
tert-Butyl cis-4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexylcarbamate
Following general procedure B, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (200 mg, 0.640 mmol) was reacted with tert-butyl cis-4-aminocyclohexylcarbamate (164 mg, 0.767 mmol) to afford the desired product (259 mg, 83%) as a brown solid: ESI MS m/z 489 [C24H30BrN3O3+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 0.640 mmol, 200 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | tert-butyl cis-4-aminocyclohexylcarbamate | 0.767 mmol, 164 mg | N[C@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C11H22N2O2
product | tert-Butyl cis-4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexylcarbamate | 259 mg, 83% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C24H30BrN3O3
